US07968570B2
M39 5-Iodo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one
To a solution of 5-Bromo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (300 mg, 0.713 mmol) in butanol (3 ml), (1R,2R)—N,N′-dimethylcyclohexane-1,2-diamine (20 mg, 0.142 mmol), copper(I) iodide (13.6 mg, 0.07 mmol) and sodium iodide (214 mg, 1.43 mmol) were added. The resulting mixture was stirred at 120° C. overnight. After cooling, the mixture was diluted with ethyl acetate, washed with water, brine, dried over anhydrous sodium sulphate, filtered, concentrated. Column chromatography (30% EtOAc/Hexanes) provided the title compound as a yellow oil (274 mg, 85%). 1H NMR (300 MHz, CDCl3): δ 7.55-7.57 (m, 2H), 7.30-7.35 (m, 2H), 7.16-7.20 (m, 2H), 4.74 (s, 2H), 4.318 (s, 2H), 2.69 (s, 3H).

reactant | 5-Bromo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.713 mmol, 300 mg | BrC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C17H13BrF3NO2
reactant | (1R,2R)—N,N′-dimethylcyclohexane-1,2-diamine | 0.142 mmol, 20 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | sodium iodide | 1.43 mmol, 214 mg | [I-].[Na+]
solvent | butanol | 3 ml | C(CCC)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.07 mmol, 13.6 mg | [Cu]I
product | 5-Iodo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 274 mg, 85% | IC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C17H13F3INO2
